US07375100B2
1-(4-Bromo-phenyl)-2-methyl-propan-2-ol
A solution of 4-bromophenylacteone (6.85 g, 32 mmol) in diethyl-ether (100 ml) was cooled to 0° C. and treated with methylmagnesium bromide (23.5 ml of a 3M solution in diethyl-ether, 70 mmol). The reaction mixture was allowed to warm gradually to room temperature. After 2 hours the reaction was quenched by addition of saturated aqueous ammonium chloride (200 ml). The organic phase was separated and washed with saturated sodium chloride (100 ml), dried (sodium sulfate) and reduced in vacuo. Purification by flash column chromatography on silica gel eluting with pentane:dichloromethane (60:40 changing to 0:100, by volume) gave the title compound as a colourless oil (6.23 g, 84%).

reactant | 4-bromophenylacteone | 32 mmol, 6.85 g | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | methylmagnesium bromide | C[Mg]Br
solvent | diethyl-ether | 100 ml | C(C)OCC | C4H10O
product | 1-(4-Bromo-phenyl)-2-methyl-propan-2-ol | 6.23 g, 84% | BrC1=CC=C(C=C1)CC(C)(O)C | C10H13BrO
